US05243110
990 kg of solid 1,1-bis(chlorophenyl)-2,2,2-trichloroethane were charged into the basic aqueous phase emanating from an upstream dehydrochlorination operation. The charging period was 2 hours to avoid the formation of solid masses inside the reactor. 5 kg of dimethylbenzyllaurylammonium chloride were added, while intense stirring was continued for 4 hours at 100°. After 1 hour at rest, the aqueous phase was separated off and 268 kg of 50% strength sodium hydroxide were added and the dehydrochlorination was continued with stirring at 100° C. for 10 hours. After dilution with 560 kg of water and 1 hour at rest, the organic phase was drawn off and the aqueous phase was retained for the following operation. The organic phase was then washed 3 times with 250 kg of a 1N solution of sulfuric acid and 879 kg of 1,1-bis(chlorophenyl)-2,2-dichloroethylene were obtained.

reactant | 1,1-bis(chlorophenyl)-2,2,2-trichloroethane | ClC1=C(C=CC=C1)C(C(Cl)(Cl)Cl)C1=C(C=CC=C1)Cl | C14H9Cl5
reactant | dimethylbenzyllaurylammonium chloride | 5 kg | [Cl-].C[NH+](CCCCCCCCCCCCCC1=CC=CC=C1)C
product | 1,1-bis(chlorophenyl)-2,2-dichloroethylene | 879 kg | ClC1=C(C=CC=C1)C(=C(Cl)Cl)C1=C(C=CC=C1)Cl | C14H8Cl4
